US04027023
N-Sodium hydroxide (10 ml.) was added to a stirred solution of ethyl 6-ethylcinnolin-3-yl carboxylate (2.3 g.) in ethanol (10 ml.). The mixture was stirred at room temperature overnight. It was then evaporated under reduced pressure to approximately half-volume, diluted with water (20 ml.), and the mixture filtered. The filtrate was cooled to 0°-5° C., and acidified to pH 2 with concentrated hydrochloric acid. The resulting precipitate was filtered off, washed with water, and dried in vacuo. The solid was crystallised from a mixture of ethyl acetate and petroleum ether (b.p. 40°-60° C.) to give 6-ethylcinnolin-3-yl carboxylic acid, m.p. 176°-8° C. (decomposition).

reactant | ethyl 6-ethylcinnolin-3-yl carboxylate | 2.3 g | C(C)C=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C13H14N2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-ethylcinnolin-3-yl carboxylic acid | C(C)C=1C=C2C=C(N=NC2=CC1)C(=O)O | C11H10N2O2
